US08895580B2
Step 2: Preparation of 4-(hydroxymethyl)-1-phenylpiperidin-2-one
Ethyl 2-oxo-1-phenylpiperidine-4-carboxylate (0.31 g, 1.3 mmol) was dissolved in tetrahydrofuran (10 mL), cooled to −78° C. and treated with lithium aluminum hydride (0.16 mL, 2 M tetrahydrofuran solution, 3.8 mmol, 3 equiv). The mixture was warmed to −40° C., stirred for 1 hour and treated with ammonium chloride (50 mL, aqueous saturated). The aqueous layer was extracted with ethyl acetate (2×50 mL) and the combined organic extracts were dried with sodium sulfate, filtered and concentrated in vacuo, providing the titled compound.

reactant | Ethyl 2-oxo-1-phenylpiperidine-4-carboxylate | 1.3 mmol, 0.31 g | O=C1N(CCC(C1)C(=O)OCC)C1=CC=CC=C1 | C14H17NO3
reactant | lithium aluminum hydride | 3.8 mmol, 2 M, 0.16 mL, 3 equiv | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-(hydroxymethyl)-1-phenylpiperidin-2-one | OCC1CC(N(CC1)C1=CC=CC=C1)=O | C12H15NO2
